US09023846B2
To a solution of 2,6-dichloro-3-nitro-pyridin-4-ylamine (970 mg, 4.66 mmol) in DMF (5 mL), K2CO3 (3.20 g, 23.0 mmol) was added, followed by addition of morpholine (0.410 mL, 4.60 mmol). The resulting mixture was stirred at room temperature for 2 h. The resulting mixture was diluted with water and extracted with EtOAc (3×10 mL). The organic layers were combined, dried (Na2SO4) and concentrated. The resulting residue was purified on silica (0:100-50:50 EtOAc-hexanes) to yield 6-chloro-2-morpholin-4-yl-3-nitro-pyridin-4-ylamine. 1H-NMR (400 MHz, CDCl3) δ: 5.99-6.20 (m, 3H), 3.72-3.82 (m, 4H), 3.40-3.50 (m, 4H).

reactant | 2,6-dichloro-3-nitro-pyridin-4-ylamine | 4.66 mmol, 970 mg | ClC1=NC(=CC(=C1[N+](=O)[O-])N)Cl | C5H3Cl2N3O2
reactant | K2CO3 | 23.0 mmol, 3.20 g | C(=O)([O-])[O-].[K+].[K+]
reactant | morpholine | 4.60 mmol, 0.410 mL | N1CCOCC1 | C4H9NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-chloro-2-morpholin-4-yl-3-nitro-pyridin-4-ylamine | ClC1=CC(=C(C(=N1)N1CCOCC1)[N+](=O)[O-])N | C9H11ClN4O3
